US05693639
4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]but-1-yne.
To a solution of the 4-(1-pyrrolidinylsulfonyl)phenylacetylene (1.3 g) in anhydrous tetrahydrofuran (60 mL) cooled to -78° C. under a nitrogen atmosphere was added n-butyllithium (2.43 mL of a 2.5M solution in hexanes, 6.09 mmol). The anion was generated over a ten minute period at -78° C. To the anion was added a cooled (0° C.) solution of trifluoroacetone (644 mL) in anhydrous tetrahydrrofuran (10 mL) over a 20 second period. The reaction was stirred at -78° C. for five minutes before the ice bath was removed. After an additional five minutes, the reaction was quenched with 2N HCl (50 mL). The product was extracted into diethyl ether. The combined organic extracts were dried, filtered, and evaporated under reduced pressure. The crude product was purified by chromatography (1:3 acetone: hexanes) followed by recrystallization (1:1 diethyl ether:hexanes) to yield the title compound as a white solid (1.38 g); mp 167.8°-168.7° C.; MS: m/z=348(M+1); NMR (CDCl3): 1.74 (s,3), 1.71-1.78 (m,4), 3.15 (s,1), 3.21-3.26.(m,4), 7.56-7.59 (m,2), 7.77-7.80 (m,2). Analysis for C15H16F3NO3S: Calculated: C, 51.87; H, 4.64; N, 4.03; Found: C, 51.80; H, 4.67; N, 3.88.

reactant | 4-(1-pyrrolidinylsulfonyl)phenylacetylene | 1.3 g | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)C#C | C12H13NO2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | trifluoroacetone | 644 mL | FC(C(C)=O)(F)F | C3H3F3O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4,4,4-Trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]but-1-yne | 1.38 g | FC(C(C#CC1=CC=C(C=C1)S(=O)(=O)N1CCCC1)(C)O)(F)F | C15H16F3NO3S
